US05314900
To a solution of methyl (2-hydroxyphenyl)acetate (1.5 g) in CH2Cl2 (10 mL) and pyridine (10 mL) was added slowly chlorotrimethylsilane (1.26 mL). The mixture was stirred for 18 hours, then most of the solvent was evaporated under reduced pressure and the residue was chromatographed on silica gel using 15% of EtOAc in hexane to afford 1.3 g of methyl (2-trimethylsilyloxyphenyl)acetate.

reactant | methyl (2-hydroxyphenyl)acetate | 1.5 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | chlorotrimethylsilane | 1.26 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | methyl (2-trimethylsilyloxyphenyl)acetate | 1.3 g | C[Si](OC1=C(C=CC=C1)CC(=O)OC)(C)C | C12H18O3Si
